US08669234B2
(2-{2-[5-(4-Bromo-phenyl)-1H-imidazol-2-yl]-pyrrolidin-1-yl}-1-methyl-2-oxo-ethyl)-carbamic acid methyl ester (0.235 g), [2-Methyl-1-(3-{5-[6-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-naphthalen-2-yl]-1H-imidazol-2-yl}-2-aza-bicyclo[2.2.1]heptane-2-carbonyl)-propyl]-carbamic acid methyl ester (0.310 g), and NaHCO3 (0.145 g) were dissolved in a mixture of 1,2-dimethoxyethane (9 mL) and water (3 mL). The solution was degassed with nitrogen, and Pd(PPh3)4 (0.0260 g) was added. The reaction mixture was stirred at 80° C. for 24 hours and evaporated under vacuum. Solid was dissolved in DCM (20 mL) and extracted twice with water (10 mL) and once with brine (10 mL). The resulting oil was subjected to silica gel chromatography using a 40 g ISCO column and effluent of 0-5% MeOH:DCM. The fractions containing product were combined and the solvent was removed under reduced pressure. Oil was dissolved in DMF, purified by reverse phase HPLC (5-70% acetonitrile:water), and lyophilized, giving [1-(3-{5-[6-(4-{2-[1-(2-Methoxycarbonylamino-propionyl)-pyrrolidin-2-yl]-3H-imidazol-4-yl}-phenyl)-naphthalen-2-yl]-1H-imidazol-2-yl}-2-aza-bicyclo[2.2.1]heptane-2-carbonyl)-2-methyl-propyl]-carbamic acid methyl ester (0.150 g, 36%) as a white solid.

reactant | (2-{2-[5-(4-Bromo-phenyl)-1H-imidazol-2-yl]-pyrrolidin-1-yl}-1-methyl-2-oxo-ethyl)-carbamic acid methyl ester | 0.235 g | COC(NC(C(=O)N1C(CCC1)C=1NC(=CN1)C1=CC=C(C=C1)Br)C)=O | C18H21BrN4O3
reactant | [2-Methyl-1-(3-{5-[6-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)-naphthalen-2-yl]-1H-imidazol-2-yl}-2-aza-bicyclo[2.2.1]heptane-2-carbonyl)-propyl]-carbamic acid methyl ester | 0.310 g | COC(NC(C(C)C)C(=O)N1C2CCC(C1C=1NC(=CN1)C1=CC3=CC=C(C=C3C=C1)B1OC(C(O1)(C)C)(C)C)C2)=O | C32H41BN4O5
reactant | NaHCO3 | 0.145 g | C(=O)(O)[O-].[Na+]
reactant | water | 3 mL | O | H2O
solvent | 1,2-dimethoxyethane | 9 mL | COCCOC | C4H10O2
product | [1-(3-{5-[6-(4-{2-[1-(2-Methoxycarbonylamino-propionyl)-pyrrolidin-2-yl]-3H-imidazol-4-yl}-phenyl)-naphthalen-2-yl]-1H-imidazol-2-yl}-2-aza-bicyclo[2.2.1]heptane-2-carbonyl)-2-methyl-propyl]-carbamic acid methyl ester | 0.150 g, 36% | COC(NC(C(C)C)C(=O)N1C2CCC(C1C=1NC(=CN1)C1=CC3=CC=C(C=C3C=C1)C1=CC=C(C=C1)C=1NC(=NC1)C1N(CCC1)C(C(C)NC(=O)OC)=O)C2)=O | C44H50N8O6
